US04460588
A mixture of 2-(4-acetamidophenoxy)ethanol (25 g), granular sodium hydride (3.1 g) and dry tetrahydrofuran (250 ml) was heated under reflux for a period of 2 hours. 2,5-Dichloropyrimidine* (19 g) was added and the mixture was heated under reflux for a further 8 hours. The solvent was removed by distillation under reduced pressure, water was added and the crystalline product was collected and dried to give 2-[2-(4-acetamidophenoxy)ethoxy]-5-chloropyrimidine (35 g), m.p. 160° C.

reactant | 2-(4-acetamidophenoxy)ethanol | 25 g | C(C)(=O)NC1=CC=C(OCCO)C=C1 | C10H13NO3
reactant | sodium hydride | 3.1 g | [H-].[Na+]
reactant | 2,5-Dichloropyrimidine | ClC1=NC=C(C=N1)Cl | C4H2Cl2N2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-[2-(4-acetamidophenoxy)ethoxy]-5-chloropyrimidine | 35 g | C(C)(=O)NC1=CC=C(OCCOC2=NC=C(C=N2)Cl)C=C1 | C14H14ClN3O3
